US07598264B2
3-hydroxy-4-methoxy-6-(4-methoxybenzyl)-N,N-dimethyl-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxamide
1-[(dimethylamino)carbonyl]-4-methoxy-6-(4-methoxybenzyl)-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridin-3-yl acetate (7.55 g) was dissolved in 50 mL MeOH and treated with 6.65 mL of a 30% by weight solution of NaOMe in MeOH at room temperature for 30 minutes. The reaction was concentrated and the remaining solid partitioned between 10% KHSO4 and chloroform. The organic layer was washed with brine, dried over Na2SO4, and then concentrated to pure product by HPLC/MS and NMR.

reactant | 1-[(dimethylamino)carbonyl]-4-methoxy-6-(4-methoxybenzyl)-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridin-3-yl acetate | 7.55 g | C(C)(=O)OC=1N=C(C=2CCN(C(C2C1OC)=O)CC1=CC=C(C=C1)OC)C(=O)N(C)C | C22H25N3O6
reactant | NaOMe | C[O-].[Na+]
solvent | MeOH | 50 mL | CO | CH4O
product | 3-hydroxy-4-methoxy-6-(4-methoxybenzyl)-N,N-dimethyl-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridine-1-carboxamide | OC=1N=C(C=2CCN(C(C2C1OC)=O)CC1=CC=C(C=C1)OC)C(=O)N(C)C | C20H23N3O5
